US07282493B2
Geldanamycin (1.12 g, 2 mmol, 1 equiv) was added to anhydrous DCM (5 mL). NH3 in MeOH was added to this solution (9 mL, 100 mmol, 50 equiv) and was allowed to stir for 24 hours. At which point the reaction solution was diluted with DCM and extracted with water, followed by dilute HCl. The organic layer was collected washed with brine, dried over Na2SO4 and concentrated to yield a purple solid. This solid was recrystalized twice from acetone/heptanes to yield 0.239 of 17-amino-17-demethoxygeldanamycin.

reactant | Geldanamycin | 2 mmol, 1.12 g, 1 equiv | C[C@H]1C[C@@H]([C@@H]([C@H](/C=C(/[C@@H]([C@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)OC)/C)OC)OC(=O)N)\C)C)O)OC | C29H40N2O9
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 17-amino-17-demethoxygeldanamycin | C[C@H]1C[C@@H]([C@@H]([C@H](/C=C(/[C@@H]([C@H](/C=C\C=C(\C(=O)NC2=CC(=O)C(=C(C1)C2=O)N)/C)OC)OC(=O)N)\C)C)O)OC | C28H39N3O8
